US03975437
A suspension of 2-(5-oxo-10,11-dihydrodibenzo[a,d]cyclohepten-2-yl)propionamide (15 g.) in a mixture of sulphuric acid (d = 1.36; 50 cc.) and water (60 cc.) is heated with vigorous stirring for 3 hours at 110°C. After cooling, the product which precipitates is filtered off and then added to N sodium hydroxide solution (55 cc.). The alkaline solution, clarified by filtration, is acidified acid adding N hydrochloric cid (60 cc.). The product which precipitates is filtered off, dried and then recrystallised from carbon tetrachloride (170 cc.) to give 2-(5-oxo-10,11-dihydrodibenzo[a,d]cyclohepten-2-yl)propionic acid (7.4 g.) melting at 122°C.

reactant | 2-(5-oxo-10,11-dihydrodibenzo[a,d]cyclohepten-2-yl)propionamide | 15 g | O=C1C2=C(CCC3=C1C=CC(=C3)C(C(=O)N)C)C=CC=C2 | C18H17NO2
reactant | sulphuric acid | 50 cc | S(O)(O)(=O)=O | H2O4S
solvent | water | 60 cc | O | H2O
product | 2-(5-oxo-10,11-dihydrodibenzo[a,d]cyclohepten-2-yl)propionic acid | 7.4 g | O=C1C2=C(CCC3=C1C=CC(=C3)C(C(=O)O)C)C=CC=C2 | C18H16O3
